US05977270
To a solution of 23.2 g of indene dissolved in 200 mL tetrahydrofuran chilled to -78° C. under argon was added 80 mL of butyl lithium (2.5M in hexanes). The resulting solution was warmed to room temperature for one hour and then re-chilled to -78° C. To this solution was added 13.7 g epibromohydrin. After stirring for one hour at -78° C., the solution was brought to room temperature for one hour and then refluxed for one hour. After cooling, 12.6 g of dimethyl sulfate was added and this mixture was refluxed for 48 hours. Hexane and saturated ammonium chloride were then added and the organic layer recovered. After further washing the organic layer with brine, it was dried over MgSO4 and evaporated to an oil. A portion of this oil was chromatographed to provide 1,3-bis(3-indenyl)-2-methoxypropane as a pale yellow oil.

reactant | indene | 23.2 g | C1C=CC2=CC=CC=C12 | C9H8
reactant | butyl lithium | 2.5M, 80 mL | C(CCC)[Li]
reactant | epibromohydrin | 13.7 g | C(Br)C1CO1 | C3H5BrO
reactant | dimethyl sulfate | 12.6 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | Hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 1,3-bis(3-indenyl)-2-methoxypropane | C1C=C(C2=CC=CC=C12)CC(CC1=CCC2=CC=CC=C12)OC | C22H22O
